US06608101B1
Ex-61A: 3′,5′-Dimethoxy-4′-hydroxyacetophenone (6.03 g, 31 mmol) and triphenylphosphine (8.05 g, 31 mmol) were stirred in 124 mL of tetrahydrofuran (THF). The mixture was treated with ethyl glycolate (3.2 g, 31 mmol) and diethylazodicarboxylate (4.83 mL, 31 mmol). The reaction mixture was stirred under reflux for about 3.5 h and then evaporated. The residue was crystallized from hexane/ethyl acetate. The mother liquor was concentrated to give a crude product which was purified by recrystallization from EtOH twice to give 3.14 g of 4′-ethoxycarbonyl-methoxy-3′,5′-dimethoxyacetophenone. Solvent removal from the mother liquor provided additional crude product which was purified by silica gel chromatography (hexane/ethyl acetate, 1:1) to give additional product (4.2 g). The total amount of pure material isolated was 7.34 g (90% yield). mp. 81-83° C.; Anal. Calcd. for C14H18O6: C, 59.57; H, 6.43; Found: C, 59.60; H, 6.34; MS (direct probe): Calcd for C14H18O6: m/z=282, found: m/z=282.

reactant | 3′,5′-Dimethoxy-4′-hydroxyacetophenone | 31 mmol, 6.03 g | COC=1C=C(C=C(C1O)OC)C(C)=O | C10H12O4
reactant | triphenylphosphine | 31 mmol, 8.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl glycolate | 31 mmol, 3.2 g | C(CO)(=O)OCC | C4H8O3
reactant | diethylazodicarboxylate | 31 mmol, 4.83 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 124 mL | O1CCCC1 | C4H8O
product | 4′-ethoxycarbonyl-methoxy-3′,5′-dimethoxyacetophenone | 3.14 g | C(C)OC(=O)C1=C(C=C(C=C1OC)C(COC)=O)OC | C14H18O6
